* Netlist for LoRa Tag Module
* Generated for 8 main components

V1 IN 0 DC 12V
U1 IN OUT LM2596S
C1 OUT GND 10uF
C2 IN GND 0.1uF

U2 VCC GND Teensy4.1
U3 CANH CANL MCP2562
U4 VCC GND ADXL362

J1 USB_P USB_N USB-B
D1 OUT LED1 Generic_LED
R1 LED1 GND 220

R2 VIN ADC_IN 10k
R3 ADC_IN GND 10k

C3 VCC GND 0.1uF
C4 VCC GND 0.1uF
C5 VCC GND 10uF

